US08440662B2
Step 3: 4-(3-(4-bromophenyl)ureido)-2-fluoro-N,N-dimethyl-benzamide
To a 100 mL round bottom flask, 4-amino-2-fluoro-N,N-dimethyl-benzamide (2.5 g, 0.0137 mol), 4-bromophenylisocyanate (3.3 g, 0.0164), TEA (3.9 mL, 0.0274 mol) and DCM (50 mL) was added. The reaction mixture was stirred at room temperature for 12 h. After 12 h, the precipitate was formed and was collected by filtration. The solid was washed with diethyl ether and dried to get the title compound [3.0 g, 58%]. Calculated mass: 379.0; Observed mass: 380.0 (RT: 1.46 min). This compound was directly taken to the next step.

reactant | 4-amino-2-fluoro-N,N-dimethyl-benzamide | 0.0137 mol, 2.5 g | NC1=CC(=C(C(=O)N(C)C)C=C1)F | C9H11FN2O
reactant | 4-bromophenylisocyanate | 3.3 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-(4-bromophenyl)ureido)-2-fluoro-N,N-dimethyl-benzamide | 3.0 g, 58% | BrC1=CC=C(C=C1)NC(NC1=CC(=C(C(=O)N(C)C)C=C1)F)=O | C16H15BrFN3O2
